US09359286B2
((1R,3R)-1-Amino-3-(4-bromophenyl)cyclopentyl)methanol (I-4A, 3.19 g, 11.81 mmol) was dissolved in THF (59.0 ml). Pyridine (0.955 ml, 11.81 mmol) and 1,1′-carbonyldiimidazole (5.74 g, 35.4 mmol) were added portionwise. The reaction mixture was stirred for 4 h and was followed by LCMS. After completion, the mixture was diluted with EtOAc and washed with 1M HCl. The aqueous layer was back extracted twice with EtOAc. The organic layers were combined, washed with saturated NaCl, dried over MgSO4, filtered and concentrated to afford (5R,7R)-7-(4-bromophenyl)-3-oxa-1-azaspiro[4.4]nonan-2-one (2.5 g, 8.44 mmol) after flash chromatography (24 g silica gel column; eluent: hexane 2 CV followed by a gradient to 100% EtOAc over 15 CV). HPLC ret time=0.91 min; LC/MS M+1=298. 1H NMR (400 MHz, CDCl3) δ 7.46 (d, J=8.5 Hz, 2H), 7.09 (d, J=8.5 Hz, 2H), 5.72-5.81 (m, 1H), 4.35 (dd, J=13 Hz, 8 Hz, 2H), 3.19-3.24 (m, 1H), 2.38-2.44 (m, 1H), 2.15-2.26 (m, 1H), 2.11-2.14 (m, 1H), 1.99-2.05 (m, 1H), 1.79-1.85 (m, 1H), 1.65-1.72 (m, 1H).

reactant | ((1R,3R)-1-Amino-3-(4-bromophenyl)cyclopentyl)methanol | 11.81 mmol, 3.19 g | N[C@]1(C[C@@H](CC1)C1=CC=C(C=C1)Br)CO | C12H16BrNO
reactant | Pyridine | 11.81 mmol, 0.955 ml | N1=CC=CC=C1 | C5H5N
reactant | 1,1′-carbonyldiimidazole | 35.4 mmol, 5.74 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 59.0 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (5R,7R)-7-(4-bromophenyl)-3-oxa-1-azaspiro[4.4]nonan-2-one | 8.44 mmol, 2.5 g | BrC1=CC=C(C=C1)[C@H]1C[C@@]2(COC(N2)=O)CC1 | C13H14BrNO2
